US04908384
d. 8-Hydroxy-5-eicosynoic acid
In a dry flask under argon was placed 10.2 g of 5-hexynoic acid, the product of lb, and 100 ml of HMPA (distilled over NaH). The solution was cooled to 0° C. and a solution of n-BuLi in hexane (115 ml, 0.185 mol) was added dropwise. After stirring for 1 hr., 21.7 g (0.118 mole) of dodecyl oxirane, the product of 1 c, was added dropwise. The reaction mixture was allowed to stir at room temperature for 3 days and then poured into 150 ml of ice and water. The aqueous solution was acidified with 5% HCl and then extracted with ether. The ether solution was washed with H2O, saturated with NaCl solution and then dried over MgSO4. Removal of solvent yielded crude product which was recrystallized in cyclohexane to give the title compound, mp 80.5°-81°.

reactant | 5-hexynoic acid | 10.2 g | C(CCCC#C)(=O)O | C6H8O2
reactant | n-BuLi | [Li]CCCC
reactant | hexane | 0.185 mol, 115 ml | CCCCCC | C6H14
reactant | dodecyl oxirane | 0.118 mole, 21.7 g | C(CCCCCCCCCCC)C1OC1 | C14H28O
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | HMPA | 100 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 8-Hydroxy-5-eicosynoic acid | OC(CC#CCCCC(=O)O)CCCCCCCCCCCC | C20H36O3
